US07910613B2
1-Phenyl-2-(2H-tetrazol-5-yl)-ethanone (intermediate for 5-(2-ethyl-2H-tetrazol-5-yl)-4-phenyl-thiazol-2-ylamine)
3-Oxo-3-phenyl-propionitrile (6.5 g, 45 mmol), sodium azide (3.3 g, 50 mmol) and triethylammonium chloride (6.7 g, 50 mmol) were stirred in dry toluene (100 mL) under argon at 90° C. for 18 h. A two-phase system was formed. The reaction mixture was cooled and extracted with NaOH (2M, 2×50 mL). The aqueous solution was poured into hydrochloric acid (4M, 200 mL) and the crude product precipitated and was filtered off and recrystalliced from acetonitrile. Yield: 74%.

reactant | 3-Oxo-3-phenyl-propionitrile | 45 mmol, 6.5 g | O=C(CC#N)C1=CC=CC=C1 | C9H7NO
reactant | sodium azide | 50 mmol, 3.3 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylammonium chloride | 50 mmol, 6.7 g | [Cl-].C(C)[NH+](CC)CC
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Phenyl-2-(2H-tetrazol-5-yl)-ethanone | Yield: 74% | C1(=CC=CC=C1)C(CC=1N=NNN1)=O | C9H8N4O
